US08471004B2
C) (7R,9aS)-7-Allyl-5-oxo-hexahydro-pyrrolo[1,2-a][1,4]diazepine-2-carboxylic acid benzyl ester
A solution of (2R,5S)-2-allyl-5-{[benzyloxycarbonyl-(2-tert-butoxycarbonyl-ethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (875 mg, 1.74 mmol) in hydrogen chloride solution (4 M in 1,4-dioxane) was stirred for 21/2 h at room temperature, then concentrated in vacuo. The residue was taken up in N,N-dimethylformamide (10 mL), then 4-methylmorpholine (528 mg, 5.23 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (993 mg, 2.61 mmol) were added. The reaction mixture was stirred for 16 h at room temperature, then partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; heptane-ethyl acetate gradient) afforded the title compound (479 mg, 84%). Colourless gum, MS: 329.4 (M+H)+.

reactant | (2R,5S)-2-allyl-5-{[benzyloxycarbonyl-(2-tert-butoxycarbonyl-ethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.74 mmol, 875 mg | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1CN(CCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)CC=C | C28H42N2O6
reactant | 4-methylmorpholine | 5.23 mmol, 528 mg | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.61 mmol, 993 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | hydrogen chloride | 4 M | Cl | ClH
product | (7R,9aS)-7-Allyl-5-oxo-hexahydro-pyrrolo[1,2-a][1,4]diazepine-2-carboxylic acid benzyl ester | 479 mg, 84% | C(C1=CC=CC=C1)OC(=O)N1C[C@H]2N(C(CC1)=O)[C@H](CC2)CC=C | C19H24N2O3
